US05856576
Preparation of 4-(o-nitrophenyl)-3-butyne-1-ol
A solution of o-bromonitrobenzene (8.1 g, 0.04 mol) in 160 ml of triethylamine, under nitrogen, is treated sequentially with bis(triphenylphosphine)palladium(II)chloride (0.28 g, 0.4 mmol), 3-butyne-1-ol (2.81 g, 0.04 mol) and copper(I)iodide (0.15 g, 0.8 mmol), stirred for about 16 hours and filtered. The filtercake is washed with toluene. The filtrates are combined and concentrated in vacuo to give the title product as a dark oil, 6.0 g, 78.5% yield, identified by NMR and mass spectral analyses.

reactant | o-bromonitrobenzene | 0.04 mol, 8.1 g | BrC1=C(C=CC=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | 3-butyne-1-ol | 0.04 mol, 2.81 g | C(CC#C)O | C4H6O
solvent | triethylamine | 160 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II)chloride | 0.4 mmol, 0.28 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper(I)iodide | 0.8 mmol, 0.15 g | [Cu]I
product | 4-(o-nitrophenyl)-3-butyne-1-ol | 78.5% yield | [N+](=O)([O-])C1=C(C=CC=C1)C#CCCO | C10H9NO3
